US08669249B2
Synthesis of 6-(2-morpholinoacetyl)-2H-benzo[b][1,4]oxazin-3(4H)-one (112)
To a 20 mL scintillation vial with a magnetic stirrer was added commercially available 6-(2-chloroacetyl)-2H-benzo[b][1,4]oxazin-3(4H)-one (113 mg, 0.5 mmol) and EtOH (2.5 mL) followed by morpholine (96 mg, 1.1 mmol). The reaction was heated at 80° C. for 1 h then cooled to room temperature. The solution was diluted with Et2O (10 mL) and the resulting solid was isolated by filtration, washed with Et2O and dried in vacuo to give a white solid: 1H NMR (DMSO-d6, 400 MHz): δ=10.91 (s, 1H), 9.31 (br. s., 1H), 7.65 (dd, J=8.3, 2.0 Hz, 1H), 7.55 (d, J=2.0 Hz, 1H), 7.03 (d, J=8.3 Hz, 1H), 4.68 (s, 2H), 3.67-3.87 (m, 6H), 3.58 (t, J=4.3 Hz, 2H), 3.07 ppm (d, J=5.1 Hz, 2H). ESI-MS: m/z 277.1 (M+H)+.

reactant | 6-(2-chloroacetyl)-2H-benzo[b][1,4]oxazin-3(4H)-one | 0.5 mmol, 113 mg | ClCC(=O)C1=CC2=C(OCC(N2)=O)C=C1 | C10H8ClNO3
reactant | EtOH | 2.5 mL | CCO | C2H6O
reactant | morpholine | 1.1 mmol, 96 mg | N1CCOCC1 | C4H9NO
solvent | Et2O | 10 mL | CCOCC | C4H10O
product | 6-(2-morpholinoacetyl)-2H-benzo[b][1,4]oxazin-3(4H)-one | O1CCN(CC1)CC(=O)C1=CC2=C(OCC(N2)=O)C=C1 | C14H16N2O4
